US08748429B2
tert-butyl (7S,8S)-7-(2,3-difluorophenyl)-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-8-ylcarbamate
A solution of (E)-methyl 2-((7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-ylidene)acetate (68 mg, 0.15 mmol) in methylene chloride (5 mL) was treated with ozone under −78° C. for 2 min. The reaction mixture was purged with nitrogen and quenched with dimethyl sulfide. The solvent was removed under vacuum and the product was purified by flash chromatography, eluting with ethyl acetate in hexane from 0 to 100% to afford the desired product (34.5 mg, 58%): 1H NMR (400 MHz, CHLOROFORM-d) δ 8.73 (s, 1H), 7.16-7.09 (m, 3H), 5.62-5.53 (m, 1H), 5.13-5.05 (m, 1H), 3.64-3.53 (m, 1H), 3.13-3.02 (m, 1H), 3.01-2.92 (m, 1H), 2.38-2.24 (m, 2H), 1.36-1.29 (m, 9H); 19F NMR (400 MHz, CHLOROFORM-d) δ −137.33, −141.96.

reactant | (E)-methyl 2-((7S,8S)-8-(tert-butoxycarbonylamino)-7-(2,3-difluorophenyl)-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-4-ylidene)acetate | 0.15 mmol, 68 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CC/C(/C=2N=CSC21)=C\C(=O)OC)C2=C(C(=CC=C2)F)F | C22H24F2N2O4S
reactant | ozone | O=[O+][O-] | O3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (7S,8S)-7-(2,3-difluorophenyl)-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[d]thiazol-8-ylcarbamate | 34.5 mg, 58% | FC1=C(C=CC=C1F)[C@H]1[C@@H](C2=C(N=CS2)C(CC1)=O)NC(OC(C)(C)C)=O | C19H20F2N2O3S
